US05252593
5-Methylbenzofuran-2-boronic acid
n-Butyl lithium (35.16 ml) was added dropwise to a stirred solution of TMEDA (9.58 ml) and 5-methylbenzofuran (8.22 g) in ether (250 ml) maintaining the temperature below -60° C. throughout. The solution was warmed to about -10° C. over 45 minutes and stirred at this temperature for 30 minutes. A precipitate formed on warming. The suspension was cooled and triisopropylborate (43 ml) was added, maintaining the temperature below -60° C. The solution was warmed gradually to room temperature before quenching with 2N HCl (70 ml). The mixture was extracted with ether (3×50 ml) and the combined organic extracts washed with 2N HCl (4×30 ml), water (2×30 ml) and dried before evaporation to give the title compound as an orange solid (12.75 g).

reactant | n-Butyl lithium | 35.16 ml | C(CCC)[Li]
reactant | TMEDA | 9.58 ml | CN(C)CCN(C)C | C6H16N2
reactant | 5-methylbenzofuran | 8.22 g | CC=1C=CC2=C(C=CO2)C1 | C9H8O
reactant | triisopropylborate | 43 ml | C(C)(C)OB(OC(C)C)OC(C)C | C9H21BO3
solvent | ether | 250 ml | CCOCC | C4H10O
product | 5-Methylbenzofuran-2-boronic acid | 12.75 g | CC=1C=CC2=C(C=C(O2)B(O)O)C1 | C9H9BO3
